US05739351
2.1 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide are added to a solution of 2.77 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol, 1.80 g of (S)-2-(2-methoxyphenyl)propionic acid and 30 mg of hydroxybenzotriazole hydrate in 80 cm3 of dichloromethane. After stirring at 20° C. for 20 hours, the reaction mixture is washed with 40 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.06-0.20 mm, height 40 cm) in a mixture of cyclohexane and ethyl acetate (30:70 by volume) and then in a mixture of ethyl acetate and methanol (90:10 by volume). Evaporation of the eluent and drying. I under reduced pressure (2.7 kPa) give 3.6 g of 6-hydroxymethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol (mixture of the 2 diastereoisomers, 3aR,4R,6S,7aS,S and 3aS,4S,6R,7aR, S) in the form of a white solid. M.p.K =178° C.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 2.1 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol | 2.77 g | OCC1CC(C2CNCC2C1)(O)C1=C(C=CC=C1)OC | C16H23NO3
reactant | (S)-2-(2-methoxyphenyl)propionic acid | 1.80 g | COC1=C(C=CC=C1)[C@@H](C(=O)O)C | C10H12O3
solvent | dichloromethane | 80 cm3 | ClCCl | CH2Cl2
catalyst | hydroxybenzotriazole hydrate | 30 mg | O.OC1=CC=CC=2NN=NC21
product | 6-hydroxymethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol | 3.6 g | OCC1CC(C2CN(CC2C1)C([C@@H](C)C1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C26H33NO5
